US09085555B2
A. 1-(5-Trifluoromethoxy-1H-indol-3-yl)-ethanone
To a solution of 5-(trifluoromethoxy)-1H-indole [262593-63-5] (1.00 g, 4.97 mmol) in CH2Cl2 (20 mL), cooled to 0° C., was added dropwise diethylaluminum chloride (1M solution in hexane; 7.46 mL, 7.46 mmol), and stirring was continued for 30 min. A solution of acetyl chloride (0.532 mL, 7.46 mmol) in CH2Cl2 (20 mL) was subsequently added, and the reaction mixture was stirred at 0° C. for 1 h. A 5% aqueous citric acid solution (100 mL) was then added at 0° C., and the mixture was stirred for 15 min at RT. The mixture (two phases) was filtered, and the precipitate was dried at 50° C. in vacuo for 1 h to afford the title compound. Beige solid. MS: 244.0 [M+H]+; tR (HPLC conditions c): 4.60 min. The material thus obtained was used directly in the next step without further purification

reactant | 5-(trifluoromethoxy)-1H-indole | 4.97 mmol, 1.00 g | FC(OC=1C=C2C=CNC2=CC1)(F)F | C9H6F3NO
reactant | diethylaluminum chloride | 7.46 mmol, 1M, 7.46 mL | [Cl-].C(C)[Al+]CC
reactant | acetyl chloride | 7.46 mmol, 0.532 mL | C(C)(=O)Cl | C2H3ClO
reactant | citric acid | 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-Trifluoromethoxy-1H-indol-3-yl)-ethanone | FC(OC=1C=C2C(=CNC2=CC1)C(C)=O)(F)F | C11H8F3NO2
